US05066680
A mixture of (S)-(+)-2-cyclohexyl-2-hydroxy-2-phenylacetic acid (1.13 g, 80% ee) and N,N'-carbonyldiimidazole (0.77 g) in chloroform (5 ml) was stirred at room temperature for 2 hours. After an addition of 4-dimethylamino-2-butynylamine (0.54 g), the mixture was stirred at the same temperature for an additional hour, then the mixture was poured into water, and extracted with ethyl acetate. The extract was washed with water and the organic layer was extracted with 1N-hydrochloric acid. The acidic solution was adjusted to pH 13 with aqueous solution of sodium hydroxide and extracted with ethyl acetate. The extract was washed with sodium chloride aqueous solution, dried over sodium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel with a mixture of chloroform and methanol (10:1) as an eluent to give (-)-N-(4-dimethylamino-2-butynyl)-2-cyclohexyl-2-hydroxy-2-phenylacetamide (0.60 g, 88% ee).

reactant | (S)-(+)-2-cyclohexyl-2-hydroxy-2-phenylacetic acid | 1.13 g | C1(CCCCC1)[C@@](C(=O)O)(C1=CC=CC=C1)O | C14H18O3
reactant | 4-dimethylamino-2-butynylamine | 0.54 g | CN(CC#CCN)C | C6H12N2
reactant | water | O | H2O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | (-)-N-(4-dimethylamino-2-butynyl)-2-cyclohexyl-2-hydroxy-2-phenylacetamide | 0.60 g | CN(CC#CCNC(C(C1=CC=CC=C1)(O)C1CCCCC1)=O)C | C20H28N2O2
